US06809199B2
tert-butyl 4-{[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]methyl}piperazine-2-carboxylate:
A mixture of 1-allyl-4-{[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]methyl}piperazine-2-carboxylic acid (EXAMPLE AAA14, 95 mg, 0.16 mmol), methanol (0.02 mL, 0.49 mmol), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (47 mg, 0.24 mmol) and 4-(dimethylamino)-pyridine (50 mg, 0.41 mmol) in methylene chloride (1 mL) was stirred at rt for 20 h. Removal of the solvent and subsequent purification by preparative thin layer chromatography using 5% of 2N ammonium in methanol/methylene chloride as eluent provided the title compound as a white solid. 1H NMR (CDCl3, 500 MHz): δ 2.31 (brs, 1H), 2.42 (m, 1H), 2.47 (m, 1H), 2.56 (m, 1H), 2.64 (m, 1H), 3.02 brs, 2H), 3.20 (brs, 1H), 3.32 (m, 1H), 3.42 (m, 2H), 3.65 (s, 3H), 4.25 (dd, 1H, J1=14.2 Hz, J2=6.2 Hz), 4.43 (dd, 1H, J1=14.4 Hz, J2=8.0 Hz), 5.06 (s, 1H), 5.16 (s, 2H), 5.84 (m, 1H), 6.11 (d, 1H, J=13.3 Hz), 6.83 (d, 1H, J=3.2 Hz), 7.30-7.60 (m, 7H). MS (API-ES+): 601 (M+H).

reactant | 1-allyl-4-{[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]methyl}piperazine-2-carboxylic acid | 0.16 mmol, 95 mg | C(C=C)N1C(CN(CC1)CC1=CC(=C2CNC(N(C2=C1)C1=C(C=CC=C1Cl)Cl)=O)C1=C(C=CC=C1)Cl)C(=O)O | C29H27Cl3N4O3
reactant | methanol | 0.49 mmol, 0.02 mL | CO | CH4O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.24 mmol, 47 mg | Cl.CN(CCCN=C=NCC)C
catalyst | 4-(dimethylamino)-pyridine | 0.41 mmol, 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-{[5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-2-oxo-1,2,3,4-tetrahydroquinazolin-7-yl]methyl}piperazine-2-carboxylate | ClC1=C(C=CC=C1)C1=C2CNC(N(C2=CC(=C1)CN1CC(NCC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1Cl)Cl)=O | C30H31Cl3N4O3
